### PR TITLE
[Merged by Bors] - chore: move results from `unitary` namespace to `Unitary`

### PR DESCRIPTION
**Pull request by themathqueen**
All results living in the `unitary` namespace is now in the `Unitary` namespace.

And the results `unitary.spectrum.unitary_conjugate` and `unitary.spectrum.unitary_conjugate'` are renamed to `Unitary.spectrum_star_conjugate_left` and `Unitary.spectrum_star_conjugate_right` to match the renaming convention in #30692.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Star/Unitary.lean [hunk 1]
```diff
@@ -406,16 +406,21 @@ variable {R A : Type*} [CommSemiring R] [Ring A] [Algebra R A] [StarMul A]
...
 @[simp]
-lemma spectrum.unitary_conjugate' {a : A} {u : unitary A} :
+lemma _root_.spectrum.unitary_star_left_conjugate {a : A} {u : unitary A} :
     spectrum R ((star u : A) * a * u) = spectrum R a := by
   simpa using spectrum.unitary_conjugate (u := star u)
 
+@[deprecated (since := "2025-10-20")] alias spectrum.unitary_conjugate :=
+  spectrum.unitary_star_right_conjugate
+@[deprecated (since := "2025-10-20")] alias spectrum.unitary_conjugate' :=
+  spectrum.unitary_star_left_conjugate'
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/Unitary.lean]:
```suggestion
  spectrum.unitary_star_left_conjugate
```

File: Mathlib/Algebra/Star/Unitary.lean [hunk 2]
```diff
@@ -406,16 +406,21 @@ variable {R A : Type*} [CommSemiring R] [Ring A] [Algebra R A] [StarMul A]
...
+lemma _root_.spectrum.unitary_star_right_conjugate {a : A} {u : unitary A} :
     spectrum R (u * a * (star u : A)) = spectrum R a :=
   spectrum.units_conjugate (u := unitary.toUnits u)
 
 /-- Unitary conjugation preserves the spectrum, star on right. -/
 @[simp]
-lemma spectrum.unitary_conjugate' {a : A} {u : unitary A} :
+lemma _root_.spectrum.unitary_star_left_conjugate {a : A} {u : unitary A} :
     spectrum R ((star u : A) * a * u) = spectrum R a := by
   simpa using spectrum.unitary_conjugate (u := star u)
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/Unitary.lean]:
```suggestion
  simpa using spectrum.unitary_star_right_conjugate (u := star u)
```

File: Mathlib/Algebra/Star/Unitary.lean [hunk 3]
```diff
@@ -406,15 +406,20 @@ variable {R A : Type*} [CommSemiring R] [Ring A] [Algebra R A] [StarMul A]
 
 /-- Unitary conjugation preserves the spectrum, star on left. -/
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/Unitary.lean]:
```suggestion
/-- Unitary conjugation preserves the spectrum, star on right. -/
```

File: Mathlib/Algebra/Star/Unitary.lean [hunk 4]
```diff
@@ -406,15 +406,20 @@ variable {R A : Type*} [CommSemiring R] [Ring A] [Algebra R A] [StarMul A]
...
 @[simp]
-lemma spectrum.unitary_conjugate {a : A} {u : unitary A} :
+lemma _root_.spectrum.unitary_star_right_conjugate {a : A} {u : unitary A} :
     spectrum R (u * a * (star u : A)) = spectrum R a :=
   spectrum.units_conjugate (u := unitary.toUnits u)
 
 /-- Unitary conjugation preserves the spectrum, star on right. -/
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/Unitary.lean]:
```suggestion
/-- Unitary conjugation preserves the spectrum, star on left. -/
```

**Comment by riccardobrasca** [comment]
Maybe it should be called `unitary.spectrum_conjugate`? And why the `u` is lowercase?!

**Comment by themathqueen** [comment]
> Maybe it should be called `unitary.spectrum_conjugate`?

Sure, but how about `unitary.spectrum_star_right_conjugate` (and `_left_` for the primed version)?

> And why the `u` is lowercase?!

Not sure, I changed it now lol.

**Comment by riccardobrasca** [comment]
All results in this file about unitary matrices should just be in the `Unitary` namespace in my opinion.

**Comment by themathqueen** [comment]
> All results in this file about unitary matrices should just be in the `Unitary` namespace in my opinion.

I changed it so that they're in the `unitary` namespace like the rest of the file.

**Comment by themathqueen** [comment]
But about `unitary` vs `Unitary`, I think that's out of scope for this pr. That would be a much larger pr, I presume.

**Comment by riccardobrasca** [comment]
Can you just try? Maybe it's enough to capitalize a `u` in this file and in a couple of `open` lines.

**Comment by themathqueen** [comment]
Alright, @riccardobrasca, done. See how big this pr is now 😭. But oh well, it didn't take nearly as long as I thought.

**Comment by riccardobrasca** [comment]
LGTM, thanks a lot!

bors d+
